US04933345
3-Acetyl-6-benzyloxy-4-methoxymethyl-β-carboline
Under an N2 atmosphere, 45 mmol of n-butyl-lithium is added dropwise within 10 minutes to 3.70 g (22 mmol) of methanesulfine-p-toluidide in 100 ml of dry THF at -78° C. To this mixture is added 5.58 g (10 mmol) of 6-benzyloxy-4-methoxymethyl-9-tosyl-β-carboline-3-carboxylic acid isopropyl ester, dissolved in 50 ml of dry THF. The reaction mixture assumes a dark-blue color. The mixture is stirred for one hour at -78° C., poured into water, and extracted with ether. The ether is drawn off and the remaining oil is dissolved in 100 ml of methanol. Then 5 g of KOH is added and the mixture agitated under reflux for one hour. After cooling, ice water is added and the precipitate is filtered off. Yield: 3.5 g.

reactant | n-butyl-lithium | 45 mmol | C(CCC)[Li]
reactant | 6-benzyloxy-4-methoxymethyl-9-tosyl-β-carboline-3-carboxylic acid isopropyl ester | 10 mmol, 5.58 g | C(C)(C)OC(=O)C=1N=CC=2N(C3=CC=C(C=C3C2C1COC)OCC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C)C=C1 | C31H30N2O6S
reactant | water | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 3-Acetyl-6-benzyloxy-4-methoxymethyl-β-carboline | C(C)(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1COC)OCC1=CC=CC=C1 | C22H20N2O3
